US09403833B2
Step 2: N-(2-Allyl-4-(trifluoromethoxy)phenyl)acrylamide
To a solution of 2-allyl-4-(trifluoromethoxy)aniline (17.5 g, 80.6 mmol) in THF (1000 ml), cooled in a dry ice bath to a temperature below −10° C. was added Et3N (8.96 g, 17.3 mmol) and acryloyl chloride (7.98 g, 88.7 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 1 hr. The resulting mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with water and brine. The organic portion was dried over Na2SO4, filtered and concentrated in under reduced pressure to give a white solid which was washed with ethyl acetate to give the title compound.

reactant | 2-allyl-4-(trifluoromethoxy)aniline | 80.6 mmol, 17.5 g | C(C=C)C1=C(N)C=CC(=C1)OC(F)(F)F | C10H10F3NO
reactant | Et3N | 17.3 mmol, 8.96 g | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 88.7 mmol, 7.98 g | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | N-(2-Allyl-4-(trifluoromethoxy)phenyl)acrylamide | C(C=C)C1=C(C=CC(=C1)OC(F)(F)F)NC(C=C)=O | C13H12F3NO2
